Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
presyncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ hx HTN DM2 cardiac stents presents with syncope.  
 patient presents with a syncopal event around noon time today 
after getting up off the couch, + headstrike and imaging at OSH 
showing small SDH. Pt states she got up off the couch and while 
trying to do laundry became lightheaded, started to lower 
herself to the ground but passed out. States this has been 
happening a few times a week for the last few months, not always 
completely passing out. Has not seen her doctor for this. Denies 
any associated cp, sob. Did have a URI last week that resolved. 
Denies headache, neck pain, vision changes. Did hit her coccyx 
and had plain film that was negative at OSH.  
 In the ED, initial vitals were: 98 68 170/106 18 96% RA  
 labs were notable for creatinine of 2.3 (baseline creatinine 
unknown) 
 imaging showed;  
 -CT head:  
 focal hyperdense thickening involving the anterior falx cerebri 
c/w a subdural hematoma measuring 5mm. No adjecaent mass effect 
or midline shift. No intracranial hemorrhage identified. There 
is no soft tissue swelling or bony fracture. small vessel 
ischemic disease, hypodensity to the right frontal horm which 
may represent a infarct of indeterminate age.  
 -C spine:  
 no acute fracture or dislocation  
 -Coccyx film:  
 no definite fracture  
 Patient was not given any medications  
 Neurosurgery was consulted and said ' The patient will not 
require admission from a neurosurgical perspective. She 
certainly would benefit from an admission to the medicine 
service for syncope workup especially in setting of multiple 
recent episodes of dizziness and complaints of transient slight 
facial droop noted during prior event by family member.'  
 On the floor,  patient HTN SBP 200s.  Denies HA, dizziness, 
chest pain, SOB.  Says she has had these lightheaded episodes 
multiple times in the past 2 mo. 

 
Past Medical History:
 umbilical hernia repair, MI ___ with one stent, DM2, HTN 

 
Social History:
___
Family History:
 paternal and maternal GM-HTN 
 maternal GM-DM2
 
Physical Exam:
ADMISSION
Vital Signs:  98.1 ___ RA 
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  
 
DISCHARGE
Vitals:  Wt 79.1, T 98.2, 159/70, 72, 18, 94% RA
Orthostatics: sup 150/66, stand 135/75, asymptomatic.

General:  older female lying comfortably in bed NAD
HEENT: MMM, EOMI, right pupil very slightly larger than left 
pupil but both reactive to light. 
Neck: mild tenderness to palpation of left lateral neck adjacent 
to SCM no significant LAD. 
Lungs:  CTA bl 
CV:  RRR, S1, S2 normal, ___ crescendo/decrescendo early 
systolic murmur loudest at ___
Abdomen: soft NT ND +BS   
Ext:  WWP, no edema
Neuro:  grossly intact 

 
Pertinent Results:
ADMISSION

___ 01:43AM BLOOD WBC-8.1 RBC-4.75 Hgb-11.6 Hct-39.1 MCV-82 
MCH-24.4* MCHC-29.7* RDW-15.9* RDWSD-46.9* Plt ___
___ 01:43AM BLOOD Neuts-62.0 ___ Monos-7.4 Eos-3.0 
Baso-1.1* Im ___ AbsNeut-5.03 AbsLymp-2.11 AbsMono-0.60 
AbsEos-0.24 AbsBaso-0.09*
___ 01:43AM BLOOD ___ PTT-27.7 ___
___ 01:43AM BLOOD Plt ___
___ 01:43AM BLOOD Glucose-124* UreaN-52* Creat-2.3* Na-137 
K-4.2 Cl-103 HCO3-21* AnGap-17
___ 09:37AM BLOOD Calcium-10.2 Phos-3.7 Mg-1.8

DISCHARGE

IMAGING
___ CT HEAD W/O CONTRAST
1.  No significant interval change in the known right subdural 
hematoma along the anterior falx, measuring up to 4 mm on axial 
images. 
2.  No new focal areas of hemorrhage. 
3.  Age-related involutional changes. 
4.  Probable sequelae of chronic small vessel ischemic disease. 

MICRO
___ UCx Negative

LABS:
___ 07:20AM BLOOD WBC-7.1 RBC-4.29 Hgb-10.4* Hct-34.3 
MCV-80* MCH-24.2* MCHC-30.3* RDW-15.9* RDWSD-44.9 Plt ___
___ 07:20AM BLOOD Plt ___
___ 07:20AM BLOOD Glucose-133* UreaN-42* Creat-2.0* Na-137 
K-3.9 Cl-101 HCO3-26 AnGap-14
___ 07:20AM BLOOD Calcium-10.1 Phos-4.0 Mg-1.9
___ 09:37AM BLOOD TSH-2.___ with multiple recent presyncopal episodes who presents 
following an episode where she struck her tailbone and head and 
has small parafalcine SDH 

___ with multiple recent syncopal episodes who presents 
following an episode where she struck her tailbone and head and 
has small parafalcine SDH 

# ORTHOSTATIC HYPOTENSION. Clearly documented in setting of AM 
anti-HTN, lying during most of the day. Patient has spine HTN 
and orthostatic hypotension indicative of autonomic dysfunction. 
Per PCP notes has ___ history of labile blood pressure. 
Medications were adjusted during admission and orthostatics were 
recorded. Patient improved greatly when losartan and HCTZ were 
held and her labetalol and clonidine were moved to ___. 
Non-pharmacologic interventions also included compression 
stockings during the day and head of bed elevated at night to 
___ degrees, encouraged sitting up during the day in a chair. 
Her orthostatic hypotension resolved and she was asymptomatic on 
discharge. Recommended continuing lifestyle modifications at 
home and labetalol 300 mg & clonidine 0.1 mg at night before 
bed. ___ worked with her prior to discharge and she was sent with 
a rolling walker and home ___. She was coached on proper 
exercises when getting out of bed to maintain autonomic 
function. She was also referred to a neurologic autonomic 
specialist prior to discharge who should contact her with an 
appointment.   

# HTN- see above

#Subdural hematoma: patient's head CT revealing for small 
parafalcine subdural hematoma. Neurosurgery consulted in ED who 
did not feel any surgical intervention was necessary. 
Neurological exam stable during admission. Neurosurgery follow 
up in 4 weeks for repeat head CT scheduled. 

#Depression: Continued home citalopram, but patient still 
described symptoms of depression inhibiting daily living. 
Consider titration of meds as outpatient given appearance c/w 
geriatric depression. TSH wnl during admission.  
 
___ on CKD - creatinine 2.3 on admission, baseline 1.9-2.0 per 
PCP ___. Resolved with increased PO fluid intake. Continue 
to encourage PO intake.

# Hyponatremia: hypovolemic, improved with increased PO intake. 
Continue to encourage hydration as above. 

 
Transitional Issues
-Medications changes: discontinued losartan, HCTZ. Labetalol 
300mg and clonidine 0.1 mg switched to dosing at nighttime only.
-Lifestyle changes: patient should wear compression stocking 
during day and sit in chair rather than lying on the couch, she 
should also elevate the head of her bed at night to ___ 
degrees if possible.
-Patient w/ evidence of depression on exam. On citalopram at 
home. Please re-address this as outpatient. TSH wnl during 
admission.
- Patient scheduled for follow up with PCP, and neurology 
autonomic dysfunction specialist, Dr. ___ will call 
her with appointment. She should follow up with autonomic 
specialist outpatient.
- Patient discharged with stable subdural hematoma, she should 
have a repeat head CT done in 4 weeks and has scheduled follow 
up with neurosurgery. 
- Patient with mild ___ on CKD (baseline Cr 1.9-2.0) during 
admission that resolved with fluid rehydration (Cr 2.0 on 
discharge), please continue to encourage adequate fluid PO 
intake.
- Patient had mild sore lymph node on left lateral neck adjacent 
to sternocleidomastoid muscle, recommended PCP follow up if it 
does not resolve within a few days. CBC was normal on discharge, 
patient remained afebrile and no signs of infection.
- Stopped magnesium supplementation on discharge as HCTZ was 
also stopped. Magnesium normal during admission. Recommend 
repeat magnesium at follow up PCP appointment to ensure stable 
normal value.
- Patient discharged with home ___ and script for rolling walker
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 
2. CloNIDine 0.1 mg PO BID 
3. Losartan Potassium 25 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Labetalol 300 mg PO BID 
6. Magnesium Oxide 800 mg PO DAILY 
7. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1. Citalopram 20 mg PO DAILY 
2. CloNIDine 0.1 mg PO QHS 
3. Labetalol 300 mg PO QHS 
4. Aspirin 325 mg PO DAILY 
5. Outpatient Physical Therapy
Please evaluate and treat
Dx: Orthostatic hypotension I95.1

6. Rolling Walker
Use daily for walking as needed
Dx: Orthostatic hypotension I95.1, Deconditioning R29.___
Duration: ongoing

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: presyncope, orthostatic hypotension, hypertensive 
urgency
Secondary: hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent / with assitance.

 
Discharge Instructions:
Dear Ms. ___, 
You were admitted because you felt dizzy and fell at home.  You 
were monitored and had no abnormal heart rhythm.  You were found 
to have low blood pressure when standing which can cause people 
to be dizzy and fall. Your ECHO (ultrasound of your heart) was 
normal. We changed your blood pressure medications and you were 
discharged on the following regimen:

- Labetalol 300 mg at night before bed
- Clonidine 0.1 mg at night before bed

Please discontinue your other blood pressure medications and do 
not restart them unless your outpatient provider instructs you 
to do so. 

You should wear compression stockings during the day, elevate 
the head of the bed at night to ___ degrees, and make sure to 
sit up in a chair rather than lying down during the day. Please 
get up slowly from lying down to sitting to standing, and sit at 
the edge of your bed for 2 minutes before standing when you wake 
up.

It was a pleasure to care for you!
-Your ___ Team-
 
Followup Instructions:
___